US07005432B2
5-(3-Cyclopropyl-5-fluoro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine
The title compound was prepared from 2-(3-cyclopropyl-5-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine. (1H-NMR (300 MHz, CDCl3) δ=9.38 (s, 1H), 6.80-7.55 (m, 6H), 5.50 (s, 2H), 2.41 (s, 3H), 1.92-2.02 (m, 1H), 1.02-1.14 (m, 2H), 0.68-0.78 (m, 2H))

reactant | 2-(3-cyclopropyl-5-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1(CC1)C=1C=C(C=C(C1)F)B1OC(C(O1)(C)C)(C)C | C15H20BFO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3-Cyclopropyl-5-fluoro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | C1(CC1)C=1C=C(C=C(C1)F)C=1C=C(N=NC1)CN1C(=NC=C1)C | C18H17FN4
